US04678781
The starting material was prepared by reaction of ethyl 2-(2-tritylaminothiazol-4-yl)-2-((Z)-hydroxyimino)acetate with 1-bromo-2-chloroethane followed by hydrolysis of the ester to give 2-(2-tritylaminothiazol-4-yl)-2-[(Z)-(2-chloroethoxy)imino]acetic acid; n.m.r. in solvent C: 3.75(t, 2H); 4.36(t, 2H); 6.64(s, 1H); 7.35(s, 15H).

reactant | ethyl 2-(2-tritylaminothiazol-4-yl)-2-((Z)-hydroxyimino)acetate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OCC)=N/O | C26H23N3O3S
reactant | 1-bromo-2-chloroethane | BrCCCl | C2H4BrCl
product | 2-(2-tritylaminothiazol-4-yl)-2-[(Z)-(2-chloroethoxy)imino]acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OCCCl | C26H22ClN3O3S
